// File: NAND3X1.spi.NAND3X1.pxi
// Created: Tue Apr 29 10:43:26 2025
// 
simulator lang=spectre
x_PM_NAND3X1\%GND ( GND N_GND_c_15_p N_GND_c_4_p N_GND_c_1_p N_GND_c_2_p \
 N_GND_M0_noxref_d )  PM_NAND3X1\%GND
x_PM_NAND3X1\%VDD ( VDD N_VDD_c_76_p N_VDD_c_44_n N_VDD_c_48_p N_VDD_c_55_p \
 N_VDD_c_60_p N_VDD_c_45_n N_VDD_M3_noxref_s N_VDD_M4_noxref_d \
 N_VDD_M6_noxref_d N_VDD_M8_noxref_d )  PM_NAND3X1\%VDD
x_PM_NAND3X1\%A ( A A A A A A A N_A_c_91_n N_A_M0_noxref_g N_A_M3_noxref_g \
 N_A_M4_noxref_g N_A_c_92_n N_A_c_94_n N_A_c_95_n N_A_c_96_n N_A_c_97_n \
 N_A_c_98_n N_A_c_99_n N_A_c_101_n N_A_c_112_p N_A_c_108_n )  PM_NAND3X1\%A
x_PM_NAND3X1\%B ( B B B B B B B N_B_c_145_n N_B_M1_noxref_g N_B_M5_noxref_g \
 N_B_M6_noxref_g N_B_c_158_n N_B_c_161_n N_B_c_202_p N_B_c_209_p N_B_c_163_n \
 N_B_c_164_n N_B_c_165_n N_B_c_166_n N_B_c_192_p N_B_c_168_n )  PM_NAND3X1\%B
x_PM_NAND3X1\%noxref_5 ( N_noxref_5_c_228_n N_noxref_5_c_214_n \
 N_noxref_5_c_218_n N_noxref_5_c_221_n N_noxref_5_c_240_n \
 N_noxref_5_M0_noxref_s )  PM_NAND3X1\%noxref_5
x_PM_NAND3X1\%C ( C C C C C C C N_C_c_255_n N_C_M2_noxref_g N_C_M7_noxref_g \
 N_C_M8_noxref_g N_C_c_268_n N_C_c_269_n N_C_c_270_n N_C_c_291_p N_C_c_284_p \
 N_C_c_293_p N_C_c_285_p N_C_c_271_n N_C_c_273_n N_C_c_274_n )  PM_NAND3X1\%C
x_PM_NAND3X1\%Y ( Y Y Y Y Y Y Y Y N_Y_c_310_n N_Y_c_313_n N_Y_c_315_n \
 N_Y_c_318_n N_Y_c_307_n N_Y_c_372_p N_Y_c_345_n N_Y_c_358_n N_Y_M2_noxref_d \
 N_Y_M3_noxref_d N_Y_M5_noxref_d N_Y_M7_noxref_d )  PM_NAND3X1\%Y
x_PM_NAND3X1\%noxref_8 ( N_noxref_8_c_376_n N_noxref_8_c_378_n \
 N_noxref_8_c_381_n N_noxref_8_c_383_n N_noxref_8_c_412_n \
 N_noxref_8_M1_noxref_d N_noxref_8_M2_noxref_s )  PM_NAND3X1\%noxref_8
cc_1 ( N_GND_c_1_p N_VDD_c_44_n ) capacitor c=0.00989514f //x=1.23 //y=0.18 \
 //x2=1.23 //y2=7.58
cc_2 ( N_GND_c_2_p N_VDD_c_45_n ) capacitor c=0.00989514f //x=4.56 //y=0.18 \
 //x2=4.56 //y2=7.58
cc_3 ( N_GND_c_1_p N_A_c_91_n ) capacitor c=0.0180363f //x=1.23 //y=0.18 \
 //x2=1.6 //y2=2.26
cc_4 ( N_GND_c_4_p N_A_c_92_n ) capacitor c=0.00133465f //x=1.48 //y=0.175 \
 //x2=1.3 //y2=1.055
cc_5 ( N_GND_M0_noxref_d N_A_c_92_n ) capacitor c=0.00211996f //x=1.375 \
 //y=1.055 //x2=1.3 //y2=1.055
cc_6 ( N_GND_M0_noxref_d N_A_c_94_n ) capacitor c=0.00255985f //x=1.375 \
 //y=1.055 //x2=1.3 //y2=1.4
cc_7 ( N_GND_c_1_p N_A_c_95_n ) capacitor c=0.00295461f //x=1.23 //y=0.18 \
 //x2=1.3 //y2=1.71
cc_8 ( N_GND_c_1_p N_A_c_96_n ) capacitor c=0.0134214f //x=1.23 //y=0.18 \
 //x2=1.3 //y2=2.095
cc_9 ( N_GND_M0_noxref_d N_A_c_97_n ) capacitor c=0.0131387f //x=1.375 \
 //y=1.055 //x2=1.675 //y2=0.9
cc_10 ( N_GND_M0_noxref_d N_A_c_98_n ) capacitor c=0.00193165f //x=1.375 \
 //y=1.055 //x2=1.675 //y2=1.555
cc_11 ( N_GND_c_2_p N_A_c_99_n ) capacitor c=0.00129623f //x=4.56 //y=0.18 \
 //x2=1.83 //y2=1.055
cc_12 ( N_GND_M0_noxref_d N_A_c_99_n ) capacitor c=0.00257848f //x=1.375 \
 //y=1.055 //x2=1.83 //y2=1.055
cc_13 ( N_GND_M0_noxref_d N_A_c_101_n ) capacitor c=0.00255985f //x=1.375 \
 //y=1.055 //x2=1.83 //y2=1.4
cc_14 ( N_GND_c_1_p N_B_c_145_n ) capacitor c=7.64246e-19 //x=1.23 //y=0.18 \
 //x2=2.71 //y2=2.26
cc_15 ( N_GND_c_15_p N_noxref_5_c_214_n ) capacitor c=0.00710601f //x=4.56 \
 //y=0.18 //x2=1.965 //y2=1.77
cc_16 ( N_GND_c_4_p N_noxref_5_c_214_n ) capacitor c=0.00110148f //x=1.48 \
 //y=0.175 //x2=1.965 //y2=1.77
cc_17 ( N_GND_c_2_p N_noxref_5_c_214_n ) capacitor c=0.0017942f //x=4.56 \
 //y=0.18 //x2=1.965 //y2=1.77
cc_18 ( N_GND_M0_noxref_d N_noxref_5_c_214_n ) capacitor c=0.00900213f \
 //x=1.375 //y=1.055 //x2=1.965 //y2=1.77
cc_19 ( N_GND_c_15_p N_noxref_5_c_218_n ) capacitor c=0.00710913f //x=4.56 \
 //y=0.18 //x2=2.05 //y2=0.805
cc_20 ( N_GND_c_2_p N_noxref_5_c_218_n ) capacitor c=0.0154411f //x=4.56 \
 //y=0.18 //x2=2.05 //y2=0.805
cc_21 ( N_GND_M0_noxref_d N_noxref_5_c_218_n ) capacitor c=0.033954f //x=1.375 \
 //y=1.055 //x2=2.05 //y2=0.805
cc_22 ( N_GND_c_15_p N_noxref_5_c_221_n ) capacitor c=0.019241f //x=4.56 \
 //y=0.18 //x2=2.935 //y2=0.72
cc_23 ( N_GND_c_2_p N_noxref_5_c_221_n ) capacitor c=0.0382556f //x=4.56 \
 //y=0.18 //x2=2.935 //y2=0.72
cc_24 ( N_GND_c_15_p N_noxref_5_M0_noxref_s ) capacitor c=0.0139432f //x=4.56 \
 //y=0.18 //x2=0.945 //y2=0.555
cc_25 ( N_GND_c_4_p N_noxref_5_M0_noxref_s ) capacitor c=0.0140604f //x=1.48 \
 //y=0.175 //x2=0.945 //y2=0.555
cc_26 ( N_GND_c_1_p N_noxref_5_M0_noxref_s ) capacitor c=0.0712607f //x=1.23 \
 //y=0.18 //x2=0.945 //y2=0.555
cc_27 ( N_GND_c_2_p N_noxref_5_M0_noxref_s ) capacitor c=0.016219f //x=4.56 \
 //y=0.18 //x2=0.945 //y2=0.555
cc_28 ( N_GND_M0_noxref_d N_noxref_5_M0_noxref_s ) capacitor c=0.033718f \
 //x=1.375 //y=1.055 //x2=0.945 //y2=0.555
cc_29 ( N_GND_c_2_p N_C_c_255_n ) capacitor c=9.53263e-19 //x=4.56 //y=0.18 \
 //x2=3.82 //y2=2.26
cc_30 ( N_GND_c_2_p N_Y_c_307_n ) capacitor c=0.0465819f //x=4.56 //y=0.18 \
 //x2=4.475 //y2=1.845
cc_31 ( N_GND_c_2_p N_Y_M2_noxref_d ) capacitor c=0.00593061f //x=4.56 \
 //y=0.18 //x2=3.885 //y2=1.095
cc_32 ( N_GND_c_15_p N_noxref_8_c_376_n ) capacitor c=0.0079063f //x=4.56 \
 //y=0.18 //x2=3.505 //y2=1.175
cc_33 ( N_GND_c_2_p N_noxref_8_c_376_n ) capacitor c=0.00865865f //x=4.56 \
 //y=0.18 //x2=3.505 //y2=1.175
cc_34 ( N_GND_c_15_p N_noxref_8_c_378_n ) capacitor c=0.00710913f //x=4.56 \
 //y=0.18 //x2=3.59 //y2=0.805
cc_35 ( N_GND_c_2_p N_noxref_8_c_378_n ) capacitor c=0.0154411f //x=4.56 \
 //y=0.18 //x2=3.59 //y2=0.805
cc_36 ( N_GND_M0_noxref_d N_noxref_8_c_378_n ) capacitor c=6.21394e-19 \
 //x=1.375 //y=1.055 //x2=3.59 //y2=0.805
cc_37 ( N_GND_c_15_p N_noxref_8_c_381_n ) capacitor c=0.0196426f //x=4.56 \
 //y=0.18 //x2=4.475 //y2=0.72
cc_38 ( N_GND_c_2_p N_noxref_8_c_381_n ) capacitor c=0.0388707f //x=4.56 \
 //y=0.18 //x2=4.475 //y2=0.72
cc_39 ( N_GND_c_15_p N_noxref_8_c_383_n ) capacitor c=0.00706765f //x=4.56 \
 //y=0.18 //x2=4.56 //y2=0.805
cc_40 ( N_GND_c_2_p N_noxref_8_c_383_n ) capacitor c=0.0563182f //x=4.56 \
 //y=0.18 //x2=4.56 //y2=0.805
cc_41 ( N_GND_M0_noxref_d N_noxref_8_M1_noxref_d ) capacitor c=0.00162435f \
 //x=1.375 //y=1.055 //x2=2.35 //y2=1.09
cc_42 ( N_GND_c_1_p N_noxref_8_M2_noxref_s ) capacitor c=8.16352e-19 //x=1.23 \
 //y=0.18 //x2=3.455 //y2=0.555
cc_43 ( N_GND_c_2_p N_noxref_8_M2_noxref_s ) capacitor c=0.00183576f //x=4.56 \
 //y=0.18 //x2=3.455 //y2=0.555
cc_44 ( N_VDD_c_44_n N_A_c_91_n ) capacitor c=0.0168497f //x=1.23 //y=7.58 \
 //x2=1.6 //y2=2.26
cc_45 ( N_VDD_M3_noxref_s N_A_c_91_n ) capacitor c=0.0128661f //x=1.445 \
 //y=5.2 //x2=1.6 //y2=2.26
cc_46 ( N_VDD_c_48_p N_A_M3_noxref_g ) capacitor c=0.00755614f //x=2.375 \
 //y=7.585 //x2=1.8 //y2=6.2
cc_47 ( N_VDD_M3_noxref_s N_A_M3_noxref_g ) capacitor c=0.0477201f //x=1.445 \
 //y=5.2 //x2=1.8 //y2=6.2
cc_48 ( N_VDD_c_48_p N_A_M4_noxref_g ) capacitor c=0.00679791f //x=2.375 \
 //y=7.585 //x2=2.24 //y2=6.2
cc_49 ( N_VDD_M4_noxref_d N_A_M4_noxref_g ) capacitor c=0.015318f //x=2.315 \
 //y=5.2 //x2=2.24 //y2=6.2
cc_50 ( N_VDD_c_44_n N_A_c_108_n ) capacitor c=0.0076931f //x=1.23 //y=7.58 \
 //x2=1.875 //y2=4.97
cc_51 ( N_VDD_M3_noxref_s N_A_c_108_n ) capacitor c=0.00637242f //x=1.445 \
 //y=5.2 //x2=1.875 //y2=4.97
cc_52 ( N_VDD_c_44_n N_B_c_145_n ) capacitor c=7.34553e-19 //x=1.23 //y=7.58 \
 //x2=2.71 //y2=2.26
cc_53 ( N_VDD_c_55_p N_B_M5_noxref_g ) capacitor c=0.00680845f //x=3.255 \
 //y=7.585 //x2=2.68 //y2=6.2
cc_54 ( N_VDD_M4_noxref_d N_B_M5_noxref_g ) capacitor c=0.015318f //x=2.315 \
 //y=5.2 //x2=2.68 //y2=6.2
cc_55 ( N_VDD_c_55_p N_B_M6_noxref_g ) capacitor c=0.00679791f //x=3.255 \
 //y=7.585 //x2=3.12 //y2=6.2
cc_56 ( N_VDD_M6_noxref_d N_B_M6_noxref_g ) capacitor c=0.015318f //x=3.195 \
 //y=5.2 //x2=3.12 //y2=6.2
cc_57 ( N_VDD_c_45_n N_C_c_255_n ) capacitor c=8.81482e-19 //x=4.56 //y=7.58 \
 //x2=3.82 //y2=2.26
cc_58 ( N_VDD_c_60_p N_C_M7_noxref_g ) capacitor c=0.00679791f //x=4.135 \
 //y=7.585 //x2=3.56 //y2=6.2
cc_59 ( N_VDD_M6_noxref_d N_C_M7_noxref_g ) capacitor c=0.015318f //x=3.195 \
 //y=5.2 //x2=3.56 //y2=6.2
cc_60 ( N_VDD_c_60_p N_C_M8_noxref_g ) capacitor c=0.00680002f //x=4.135 \
 //y=7.585 //x2=4 //y2=6.2
cc_61 ( N_VDD_M8_noxref_d N_C_M8_noxref_g ) capacitor c=0.0394719f //x=4.075 \
 //y=5.2 //x2=4 //y2=6.2
cc_62 ( N_VDD_c_45_n Y ) capacitor c=0.046173f //x=4.56 //y=7.58 //x2=4.56 \
 //y2=2.4
cc_63 ( N_VDD_c_48_p N_Y_c_310_n ) capacitor c=5.56797e-19 //x=2.375 //y=7.585 \
 //x2=2.815 //y2=5.335
cc_64 ( N_VDD_c_55_p N_Y_c_310_n ) capacitor c=5.56797e-19 //x=3.255 //y=7.585 \
 //x2=2.815 //y2=5.335
cc_65 ( N_VDD_M4_noxref_d N_Y_c_310_n ) capacitor c=0.0120392f //x=2.315 \
 //y=5.2 //x2=2.815 //y2=5.335
cc_66 ( N_VDD_c_44_n N_Y_c_313_n ) capacitor c=0.00880189f //x=1.23 //y=7.58 \
 //x2=2.105 //y2=5.335
cc_67 ( N_VDD_M3_noxref_s N_Y_c_313_n ) capacitor c=0.0831083f //x=1.445 \
 //y=5.2 //x2=2.105 //y2=5.335
cc_68 ( N_VDD_c_55_p N_Y_c_315_n ) capacitor c=5.56797e-19 //x=3.255 //y=7.585 \
 //x2=3.695 //y2=5.335
cc_69 ( N_VDD_c_60_p N_Y_c_315_n ) capacitor c=5.56797e-19 //x=4.135 //y=7.585 \
 //x2=3.695 //y2=5.335
cc_70 ( N_VDD_M6_noxref_d N_Y_c_315_n ) capacitor c=0.0120392f //x=3.195 \
 //y=5.2 //x2=3.695 //y2=5.335
cc_71 ( N_VDD_c_60_p N_Y_c_318_n ) capacitor c=8.44603e-19 //x=4.135 //y=7.585 \
 //x2=4.475 //y2=5.335
cc_72 ( N_VDD_c_45_n N_Y_c_318_n ) capacitor c=0.00185018f //x=4.56 //y=7.58 \
 //x2=4.475 //y2=5.335
cc_73 ( N_VDD_M8_noxref_d N_Y_c_318_n ) capacitor c=0.0120392f //x=4.075 \
 //y=5.2 //x2=4.475 //y2=5.335
cc_74 ( N_VDD_c_76_p N_Y_M3_noxref_d ) capacitor c=0.00721219f //x=4.56 \
 //y=7.58 //x2=1.875 //y2=5.2
cc_75 ( N_VDD_c_48_p N_Y_M3_noxref_d ) capacitor c=0.0138842f //x=2.375 \
 //y=7.585 //x2=1.875 //y2=5.2
cc_76 ( N_VDD_c_45_n N_Y_M3_noxref_d ) capacitor c=0.00135292f //x=4.56 \
 //y=7.58 //x2=1.875 //y2=5.2
cc_77 ( N_VDD_M4_noxref_d N_Y_M3_noxref_d ) capacitor c=0.0664752f //x=2.315 \
 //y=5.2 //x2=1.875 //y2=5.2
cc_78 ( N_VDD_c_76_p N_Y_M5_noxref_d ) capacitor c=0.00721219f //x=4.56 \
 //y=7.58 //x2=2.755 //y2=5.2
cc_79 ( N_VDD_c_55_p N_Y_M5_noxref_d ) capacitor c=0.0138842f //x=3.255 \
 //y=7.585 //x2=2.755 //y2=5.2
cc_80 ( N_VDD_c_45_n N_Y_M5_noxref_d ) capacitor c=0.00184577f //x=4.56 \
 //y=7.58 //x2=2.755 //y2=5.2
cc_81 ( N_VDD_M3_noxref_s N_Y_M5_noxref_d ) capacitor c=0.00130656f //x=1.445 \
 //y=5.2 //x2=2.755 //y2=5.2
cc_82 ( N_VDD_M4_noxref_d N_Y_M5_noxref_d ) capacitor c=0.0664752f //x=2.315 \
 //y=5.2 //x2=2.755 //y2=5.2
cc_83 ( N_VDD_M6_noxref_d N_Y_M5_noxref_d ) capacitor c=0.0664752f //x=3.195 \
 //y=5.2 //x2=2.755 //y2=5.2
cc_84 ( N_VDD_c_76_p N_Y_M7_noxref_d ) capacitor c=0.00721219f //x=4.56 \
 //y=7.58 //x2=3.635 //y2=5.2
cc_85 ( N_VDD_c_60_p N_Y_M7_noxref_d ) capacitor c=0.0138122f //x=4.135 \
 //y=7.585 //x2=3.635 //y2=5.2
cc_86 ( N_VDD_c_45_n N_Y_M7_noxref_d ) capacitor c=0.010988f //x=4.56 //y=7.58 \
 //x2=3.635 //y2=5.2
cc_87 ( N_VDD_M6_noxref_d N_Y_M7_noxref_d ) capacitor c=0.0664752f //x=3.195 \
 //y=5.2 //x2=3.635 //y2=5.2
cc_88 ( N_VDD_M8_noxref_d N_Y_M7_noxref_d ) capacitor c=0.0664752f //x=4.075 \
 //y=5.2 //x2=3.635 //y2=5.2
cc_89 ( N_A_c_91_n N_B_c_145_n ) capacitor c=0.0587479f //x=1.6 //y=2.26 \
 //x2=2.71 //y2=2.26
cc_90 ( N_A_c_96_n N_B_c_145_n ) capacitor c=0.00238338f //x=1.3 //y=2.095 \
 //x2=2.71 //y2=2.26
cc_91 ( N_A_c_112_p N_B_c_145_n ) capacitor c=0.00147352f //x=2.165 //y=4.97 \
 //x2=2.71 //y2=2.26
cc_92 ( N_A_c_108_n N_B_c_145_n ) capacitor c=0.00142741f //x=1.875 //y=4.97 \
 //x2=2.71 //y2=2.26
cc_93 ( N_A_M3_noxref_g N_B_M5_noxref_g ) capacitor c=0.0105869f //x=1.8 \
 //y=6.2 //x2=2.68 //y2=6.2
cc_94 ( N_A_M4_noxref_g N_B_M5_noxref_g ) capacitor c=0.10632f //x=2.24 \
 //y=6.2 //x2=2.68 //y2=6.2
cc_95 ( N_A_M4_noxref_g N_B_M6_noxref_g ) capacitor c=0.0101598f //x=2.24 \
 //y=6.2 //x2=3.12 //y2=6.2
cc_96 ( N_A_c_92_n N_B_c_158_n ) capacitor c=5.72482e-19 //x=1.3 //y=1.055 \
 //x2=2.275 //y2=1.09
cc_97 ( N_A_c_94_n N_B_c_158_n ) capacitor c=0.00149976f //x=1.3 //y=1.4 \
 //x2=2.275 //y2=1.09
cc_98 ( N_A_c_99_n N_B_c_158_n ) capacitor c=0.0160123f //x=1.83 //y=1.055 \
 //x2=2.275 //y2=1.09
cc_99 ( N_A_c_95_n N_B_c_161_n ) capacitor c=0.00111227f //x=1.3 //y=1.71 \
 //x2=2.275 //y2=1.4
cc_100 ( N_A_c_101_n N_B_c_161_n ) capacitor c=0.0124075f //x=1.83 //y=1.4 \
 //x2=2.275 //y2=1.4
cc_101 ( N_A_c_99_n N_B_c_163_n ) capacitor c=0.00103227f //x=1.83 //y=1.055 \
 //x2=2.8 //y2=1.09
cc_102 ( N_A_c_101_n N_B_c_164_n ) capacitor c=0.0010154f //x=1.83 //y=1.4 \
 //x2=2.8 //y2=1.4
cc_103 ( N_A_c_101_n N_B_c_165_n ) capacitor c=9.23422e-19 //x=1.83 //y=1.4 \
 //x2=2.8 //y2=1.63
cc_104 ( N_A_c_91_n N_B_c_166_n ) capacitor c=0.00231304f //x=1.6 //y=2.26 \
 //x2=2.8 //y2=2.095
cc_105 ( N_A_c_96_n N_B_c_166_n ) capacitor c=0.00964411f //x=1.3 //y=2.095 \
 //x2=2.8 //y2=2.095
cc_106 ( N_A_c_91_n N_B_c_168_n ) capacitor c=0.00183762f //x=1.6 //y=2.26 \
 //x2=2.71 //y2=4.88
cc_107 ( N_A_c_112_p N_B_c_168_n ) capacitor c=0.0168581f //x=2.165 //y=4.97 \
 //x2=2.71 //y2=4.88
cc_108 ( N_A_c_108_n N_B_c_168_n ) capacitor c=0.00484466f //x=1.875 //y=4.97 \
 //x2=2.71 //y2=4.88
cc_109 ( N_A_c_96_n N_noxref_5_c_228_n ) capacitor c=0.0034165f //x=1.3 \
 //y=2.095 //x2=1.08 //y2=1.685
cc_110 ( N_A_c_91_n N_noxref_5_c_214_n ) capacitor c=0.0122915f //x=1.6 \
 //y=2.26 //x2=1.965 //y2=1.77
cc_111 ( N_A_c_95_n N_noxref_5_c_214_n ) capacitor c=0.00703864f //x=1.3 \
 //y=1.71 //x2=1.965 //y2=1.77
cc_112 ( N_A_c_96_n N_noxref_5_c_214_n ) capacitor c=0.0259045f //x=1.3 \
 //y=2.095 //x2=1.965 //y2=1.77
cc_113 ( N_A_c_98_n N_noxref_5_c_214_n ) capacitor c=0.00708583f //x=1.675 \
 //y=1.555 //x2=1.965 //y2=1.77
cc_114 ( N_A_c_101_n N_noxref_5_c_214_n ) capacitor c=0.00698822f //x=1.83 \
 //y=1.4 //x2=1.965 //y2=1.77
cc_115 ( N_A_c_92_n N_noxref_5_M0_noxref_s ) capacitor c=0.0327271f //x=1.3 \
 //y=1.055 //x2=0.945 //y2=0.555
cc_116 ( N_A_c_95_n N_noxref_5_M0_noxref_s ) capacitor c=7.99997e-19 //x=1.3 \
 //y=1.71 //x2=0.945 //y2=0.555
cc_117 ( N_A_c_96_n N_noxref_5_M0_noxref_s ) capacitor c=0.00122123f //x=1.3 \
 //y=2.095 //x2=0.945 //y2=0.555
cc_118 ( N_A_c_99_n N_noxref_5_M0_noxref_s ) capacitor c=0.0121427f //x=1.83 \
 //y=1.055 //x2=0.945 //y2=0.555
cc_119 ( N_A_c_91_n N_C_c_255_n ) capacitor c=0.00135364f //x=1.6 //y=2.26 \
 //x2=3.82 //y2=2.26
cc_120 ( N_A_M4_noxref_g N_Y_c_310_n ) capacitor c=0.0204345f //x=2.24 //y=6.2 \
 //x2=2.815 //y2=5.335
cc_121 ( N_A_M3_noxref_g N_Y_c_313_n ) capacitor c=0.0213876f //x=1.8 //y=6.2 \
 //x2=2.105 //y2=5.335
cc_122 ( N_A_c_112_p N_Y_c_313_n ) capacitor c=0.0044314f //x=2.165 //y=4.97 \
 //x2=2.105 //y2=5.335
cc_123 ( N_A_M4_noxref_g N_Y_M3_noxref_d ) capacitor c=0.0180032f //x=2.24 \
 //y=6.2 //x2=1.875 //y2=5.2
cc_124 ( N_B_c_158_n N_noxref_5_c_221_n ) capacitor c=0.0167228f //x=2.275 \
 //y=1.09 //x2=2.935 //y2=0.72
cc_125 ( N_B_c_163_n N_noxref_5_c_221_n ) capacitor c=0.00534519f //x=2.8 \
 //y=1.09 //x2=2.935 //y2=0.72
cc_126 ( N_B_c_145_n N_noxref_5_c_240_n ) capacitor c=0.0124072f //x=2.71 \
 //y=2.26 //x2=2.935 //y2=1.77
cc_127 ( N_B_c_161_n N_noxref_5_c_240_n ) capacitor c=0.0153476f //x=2.275 \
 //y=1.4 //x2=2.935 //y2=1.77
cc_128 ( N_B_c_166_n N_noxref_5_c_240_n ) capacitor c=0.023396f //x=2.8 \
 //y=2.095 //x2=2.935 //y2=1.77
cc_129 ( N_B_c_158_n N_noxref_5_M0_noxref_s ) capacitor c=0.00798959f \
 //x=2.275 //y=1.09 //x2=0.945 //y2=0.555
cc_130 ( N_B_c_165_n N_noxref_5_M0_noxref_s ) capacitor c=0.00212176f //x=2.8 \
 //y=1.63 //x2=0.945 //y2=0.555
cc_131 ( N_B_c_166_n N_noxref_5_M0_noxref_s ) capacitor c=0.00298115f //x=2.8 \
 //y=2.095 //x2=0.945 //y2=0.555
cc_132 ( N_B_c_145_n N_C_c_255_n ) capacitor c=0.0585754f //x=2.71 //y=2.26 \
 //x2=3.82 //y2=2.26
cc_133 ( N_B_c_166_n N_C_c_255_n ) capacitor c=0.0023343f //x=2.8 //y=2.095 \
 //x2=3.82 //y2=2.26
cc_134 ( N_B_c_168_n N_C_c_255_n ) capacitor c=0.00142741f //x=2.71 //y=4.88 \
 //x2=3.82 //y2=2.26
cc_135 ( N_B_M5_noxref_g N_C_M7_noxref_g ) capacitor c=0.0101598f //x=2.68 \
 //y=6.2 //x2=3.56 //y2=6.2
cc_136 ( N_B_M6_noxref_g N_C_M7_noxref_g ) capacitor c=0.0602553f //x=3.12 \
 //y=6.2 //x2=3.56 //y2=6.2
cc_137 ( N_B_M6_noxref_g N_C_M8_noxref_g ) capacitor c=0.0101598f //x=3.12 \
 //y=6.2 //x2=4 //y2=6.2
cc_138 ( N_B_c_163_n N_C_c_268_n ) capacitor c=0.00456962f //x=2.8 //y=1.09 \
 //x2=3.81 //y2=1.095
cc_139 ( N_B_c_164_n N_C_c_269_n ) capacitor c=0.00438372f //x=2.8 //y=1.4 \
 //x2=3.81 //y2=1.44
cc_140 ( N_B_c_165_n N_C_c_270_n ) capacitor c=0.00438372f //x=2.8 //y=1.63 \
 //x2=3.81 //y2=1.75
cc_141 ( N_B_c_145_n N_C_c_271_n ) capacitor c=0.00228632f //x=2.71 //y=2.26 \
 //x2=3.82 //y2=2.26
cc_142 ( N_B_c_166_n N_C_c_271_n ) capacitor c=0.00933826f //x=2.8 //y=2.095 \
 //x2=3.82 //y2=2.26
cc_143 ( N_B_c_166_n N_C_c_273_n ) capacitor c=0.00438372f //x=2.8 //y=2.095 \
 //x2=3.82 //y2=2.095
cc_144 ( N_B_c_145_n N_C_c_274_n ) capacitor c=0.00219458f //x=2.71 //y=2.26 \
 //x2=3.82 //y2=4.88
cc_145 ( N_B_c_192_p N_C_c_274_n ) capacitor c=0.0611812f //x=3.045 //y=4.97 \
 //x2=3.82 //y2=4.88
cc_146 ( N_B_c_168_n N_C_c_274_n ) capacitor c=0.00487508f //x=2.71 //y=4.88 \
 //x2=3.82 //y2=4.88
cc_147 ( N_B_c_145_n Y ) capacitor c=0.003217f //x=2.71 //y=2.26 //x2=4.56 \
 //y2=2.4
cc_148 ( N_B_c_145_n N_Y_c_310_n ) capacitor c=0.0147127f //x=2.71 //y=2.26 \
 //x2=2.815 //y2=5.335
cc_149 ( N_B_M5_noxref_g N_Y_c_310_n ) capacitor c=0.0170309f //x=2.68 //y=6.2 \
 //x2=2.815 //y2=5.335
cc_150 ( N_B_c_168_n N_Y_c_310_n ) capacitor c=0.00325274f //x=2.71 //y=4.88 \
 //x2=2.815 //y2=5.335
cc_151 ( N_B_M6_noxref_g N_Y_c_315_n ) capacitor c=0.0209597f //x=3.12 //y=6.2 \
 //x2=3.695 //y2=5.335
cc_152 ( N_B_c_192_p N_Y_c_345_n ) capacitor c=0.00441288f //x=3.045 //y=4.97 \
 //x2=2.9 //y2=5.335
cc_153 ( N_B_M5_noxref_g N_Y_M5_noxref_d ) capacitor c=0.0180032f //x=2.68 \
 //y=6.2 //x2=2.755 //y2=5.2
cc_154 ( N_B_M6_noxref_g N_Y_M5_noxref_d ) capacitor c=0.0180032f //x=3.12 \
 //y=6.2 //x2=2.755 //y2=5.2
cc_155 ( N_B_c_202_p N_noxref_8_c_376_n ) capacitor c=2.14837e-19 //x=2.645 \
 //y=0.935 //x2=3.505 //y2=1.175
cc_156 ( N_B_c_163_n N_noxref_8_c_376_n ) capacitor c=0.00123426f //x=2.8 \
 //y=1.09 //x2=3.505 //y2=1.175
cc_157 ( N_B_c_164_n N_noxref_8_c_376_n ) capacitor c=0.0129288f //x=2.8 \
 //y=1.4 //x2=3.505 //y2=1.175
cc_158 ( N_B_c_165_n N_noxref_8_c_376_n ) capacitor c=0.00142359f //x=2.8 \
 //y=1.63 //x2=3.505 //y2=1.175
cc_159 ( N_B_c_158_n N_noxref_8_M1_noxref_d ) capacitor c=0.00223875f \
 //x=2.275 //y=1.09 //x2=2.35 //y2=1.09
cc_160 ( N_B_c_161_n N_noxref_8_M1_noxref_d ) capacitor c=0.00262485f \
 //x=2.275 //y=1.4 //x2=2.35 //y2=1.09
cc_161 ( N_B_c_202_p N_noxref_8_M1_noxref_d ) capacitor c=0.00220746f \
 //x=2.645 //y=0.935 //x2=2.35 //y2=1.09
cc_162 ( N_B_c_209_p N_noxref_8_M1_noxref_d ) capacitor c=0.00194798f \
 //x=2.645 //y=1.555 //x2=2.35 //y2=1.09
cc_163 ( N_B_c_163_n N_noxref_8_M1_noxref_d ) capacitor c=0.00198465f //x=2.8 \
 //y=1.09 //x2=2.35 //y2=1.09
cc_164 ( N_B_c_164_n N_noxref_8_M1_noxref_d ) capacitor c=0.00128384f //x=2.8 \
 //y=1.4 //x2=2.35 //y2=1.09
cc_165 ( N_B_c_163_n N_noxref_8_M2_noxref_s ) capacitor c=7.21316e-19 //x=2.8 \
 //y=1.09 //x2=3.455 //y2=0.555
cc_166 ( N_B_c_164_n N_noxref_8_M2_noxref_s ) capacitor c=0.00348171f //x=2.8 \
 //y=1.4 //x2=3.455 //y2=0.555
cc_167 ( N_noxref_5_M0_noxref_s N_Y_M2_noxref_d ) capacitor c=0.00309936f \
 //x=0.945 //y=0.555 //x2=3.885 //y2=1.095
cc_168 ( N_noxref_5_c_221_n N_noxref_8_c_376_n ) capacitor c=0.0136048f \
 //x=2.935 //y=0.72 //x2=3.505 //y2=1.175
cc_169 ( N_noxref_5_c_240_n N_noxref_8_c_376_n ) capacitor c=0.0102337f \
 //x=2.935 //y=1.77 //x2=3.505 //y2=1.175
cc_170 ( N_noxref_5_M0_noxref_s N_noxref_8_c_376_n ) capacitor c=0.023368f \
 //x=0.945 //y=0.555 //x2=3.505 //y2=1.175
cc_171 ( N_noxref_5_M0_noxref_s N_noxref_8_c_378_n ) capacitor c=0.0180035f \
 //x=0.945 //y=0.555 //x2=3.59 //y2=0.805
cc_172 ( N_noxref_5_c_221_n N_noxref_8_M1_noxref_d ) capacitor c=0.0129526f \
 //x=2.935 //y=0.72 //x2=2.35 //y2=1.09
cc_173 ( N_noxref_5_c_240_n N_noxref_8_M1_noxref_d ) capacitor c=0.0091401f \
 //x=2.935 //y=1.77 //x2=2.35 //y2=1.09
cc_174 ( N_noxref_5_M0_noxref_s N_noxref_8_M1_noxref_d ) capacitor \
 c=0.0159202f //x=0.945 //y=0.555 //x2=2.35 //y2=1.09
cc_175 ( N_noxref_5_M0_noxref_s N_noxref_8_M2_noxref_s ) capacitor \
 c=0.0213553f //x=0.945 //y=0.555 //x2=3.455 //y2=0.555
cc_176 ( N_C_c_255_n Y ) capacitor c=0.0937541f //x=3.82 //y=2.26 //x2=4.56 \
 //y2=2.4
cc_177 ( N_C_c_271_n Y ) capacitor c=0.00877984f //x=3.82 //y=2.26 //x2=4.56 \
 //y2=2.4
cc_178 ( N_C_c_273_n Y ) capacitor c=0.00283672f //x=3.82 //y=2.095 //x2=4.56 \
 //y2=2.4
cc_179 ( N_C_c_274_n Y ) capacitor c=0.013844f //x=3.82 //y=4.88 //x2=4.56 \
 //y2=2.4
cc_180 ( N_C_M7_noxref_g N_Y_c_315_n ) capacitor c=0.0209597f //x=3.56 //y=6.2 \
 //x2=3.695 //y2=5.335
cc_181 ( N_C_M8_noxref_g N_Y_c_318_n ) capacitor c=0.0230978f //x=4 //y=6.2 \
 //x2=4.475 //y2=5.335
cc_182 ( N_C_c_274_n N_Y_c_318_n ) capacitor c=0.00201851f //x=3.82 //y=4.88 \
 //x2=4.475 //y2=5.335
cc_183 ( N_C_c_284_p N_Y_c_307_n ) capacitor c=0.00359704f //x=4.185 //y=1.595 \
 //x2=4.475 //y2=1.845
cc_184 ( N_C_c_285_p N_Y_c_307_n ) capacitor c=0.00457401f //x=4.34 //y=1.44 \
 //x2=4.475 //y2=1.845
cc_185 ( N_C_c_255_n N_Y_c_358_n ) capacitor c=0.017915f //x=3.82 //y=2.26 \
 //x2=3.78 //y2=5.335
cc_186 ( N_C_c_274_n N_Y_c_358_n ) capacitor c=0.00625229f //x=3.82 //y=4.88 \
 //x2=3.78 //y2=5.335
cc_187 ( N_C_c_268_n N_Y_M2_noxref_d ) capacitor c=0.00217566f //x=3.81 \
 //y=1.095 //x2=3.885 //y2=1.095
cc_188 ( N_C_c_269_n N_Y_M2_noxref_d ) capacitor c=0.0034598f //x=3.81 \
 //y=1.44 //x2=3.885 //y2=1.095
cc_189 ( N_C_c_270_n N_Y_M2_noxref_d ) capacitor c=0.00544291f //x=3.81 \
 //y=1.75 //x2=3.885 //y2=1.095
cc_190 ( N_C_c_291_p N_Y_M2_noxref_d ) capacitor c=0.00241102f //x=4.185 \
 //y=0.94 //x2=3.885 //y2=1.095
cc_191 ( N_C_c_284_p N_Y_M2_noxref_d ) capacitor c=0.0140297f //x=4.185 \
 //y=1.595 //x2=3.885 //y2=1.095
cc_192 ( N_C_c_293_p N_Y_M2_noxref_d ) capacitor c=0.00219619f //x=4.34 \
 //y=1.095 //x2=3.885 //y2=1.095
cc_193 ( N_C_c_285_p N_Y_M2_noxref_d ) capacitor c=0.00603828f //x=4.34 \
 //y=1.44 //x2=3.885 //y2=1.095
cc_194 ( N_C_c_273_n N_Y_M2_noxref_d ) capacitor c=0.00661782f //x=3.82 \
 //y=2.095 //x2=3.885 //y2=1.095
cc_195 ( N_C_M7_noxref_g N_Y_M7_noxref_d ) capacitor c=0.0180032f //x=3.56 \
 //y=6.2 //x2=3.635 //y2=5.2
cc_196 ( N_C_M8_noxref_g N_Y_M7_noxref_d ) capacitor c=0.0194246f //x=4 \
 //y=6.2 //x2=3.635 //y2=5.2
cc_197 ( N_C_c_255_n N_noxref_8_c_381_n ) capacitor c=0.00210069f //x=3.82 \
 //y=2.26 //x2=4.475 //y2=0.72
cc_198 ( N_C_c_268_n N_noxref_8_c_381_n ) capacitor c=0.0192822f //x=3.81 \
 //y=1.095 //x2=4.475 //y2=0.72
cc_199 ( N_C_c_293_p N_noxref_8_c_381_n ) capacitor c=0.00656458f //x=4.34 \
 //y=1.095 //x2=4.475 //y2=0.72
cc_200 ( N_C_c_271_n N_noxref_8_c_381_n ) capacitor c=2.20712e-19 //x=3.82 \
 //y=2.26 //x2=4.475 //y2=0.72
cc_201 ( N_C_c_269_n N_noxref_8_c_412_n ) capacitor c=0.00538829f //x=3.81 \
 //y=1.44 //x2=3.59 //y2=1.175
cc_202 ( N_C_c_268_n N_noxref_8_M2_noxref_s ) capacitor c=0.00538829f //x=3.81 \
 //y=1.095 //x2=3.455 //y2=0.555
cc_203 ( N_C_c_270_n N_noxref_8_M2_noxref_s ) capacitor c=0.00538829f //x=3.81 \
 //y=1.75 //x2=3.455 //y2=0.555
cc_204 ( N_C_c_293_p N_noxref_8_M2_noxref_s ) capacitor c=0.0143002f //x=4.34 \
 //y=1.095 //x2=3.455 //y2=0.555
cc_205 ( N_C_c_285_p N_noxref_8_M2_noxref_s ) capacitor c=0.00290153f //x=4.34 \
 //y=1.44 //x2=3.455 //y2=0.555
cc_206 ( N_Y_c_307_n N_noxref_8_c_381_n ) capacitor c=0.0046926f //x=4.475 \
 //y=1.845 //x2=4.475 //y2=0.72
cc_207 ( N_Y_M2_noxref_d N_noxref_8_c_381_n ) capacitor c=0.0118457f //x=3.885 \
 //y=1.095 //x2=4.475 //y2=0.72
cc_208 ( N_Y_c_372_p N_noxref_8_c_412_n ) capacitor c=0.0200405f //x=4.16 \
 //y=1.845 //x2=3.59 //y2=1.175
cc_209 ( N_Y_M2_noxref_d N_noxref_8_M1_noxref_d ) capacitor c=5.27807e-19 \
 //x=3.885 //y=1.095 //x2=2.35 //y2=1.09
cc_210 ( N_Y_c_307_n N_noxref_8_M2_noxref_s ) capacitor c=0.0212001f //x=4.475 \
 //y=1.845 //x2=3.455 //y2=0.555
cc_211 ( N_Y_M2_noxref_d N_noxref_8_M2_noxref_s ) capacitor c=0.0426368f \
 //x=3.885 //y=1.095 //x2=3.455 //y2=0.555
